US07632851B2
(4-Bromo-3-methoxy-phenyl)-methyl-carbamic acid tert-butyl ester
0.63 mL (1.25 eq.) 1-bromo-2-fluoroethane are added at room temperature to a stirred suspension of 2 g (6.6 mmol) (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-methyl-carbamic acid tert-butyl ester and 3.2 g (1.5 eq.) cesium carbonate in 50 mL DMF. After stirring for 12 hours at 50 to 55° C., the reaction mixture is cooled to rt. And extracted with water/ethyl acetate. The combined organic phases are washed with brine, dried over magnesium sulfate and evaporated to yield the desired product as a yellow oil, which is used without further purification.

reactant | 1-bromo-2-fluoroethane | 0.63 mL, 1.25 eq. | BrCCF | C2H4BrF
reactant | (4-benzo[1,2,5]oxadiazol-5-yl-3-methoxy-phenyl)-methyl-carbamic acid tert-butyl ester | 6.6 mmol, 2 g | C(C)(C)(C)OC(N(C)C1=CC(=C(C=C1)C=1C=CC=2C(=NON2)C1)OC)=O | C19H21N3O4
reactant | cesium carbonate | 3.2 g, 1.5 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (4-Bromo-3-methoxy-phenyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=CC(=C(C=C1)Br)OC)=O | C13H18BrNO3
